US07217730B2
5-Bromo-2-methylaniline
The mixture of Fe powder (9.31 g, 167 mmol) and NH4Cl (2.48 g, 46.3 mmol) in water (50 mL) was refluxed for 30 minutes. To this hot mixture was added 4-bromo-2-nitrotoluene (10 g, 46.3 mmol) slowly and then the reaction mixture was refluxed for 48 hours. The mixture was cooled to room temperature and extracted with EtOAc (3×100 mL). The organic solution was washed with H2O (3×200 mL) and brine (200 mL), dried (Na2SO4), and concentrated. The residue was purified by flash chromatography (silica, 15% EtOAc in hexanes) to give 7.9 g (92%) of title compound as a pale yellow oil. 1H nuclear magnetic resonance (NMR) (CDCl3): 300 MHz δ 6.88 (m, 1H), 6.81 (m, 2H), 3.63 (bs, 2H), 2.09 (s, 3H).

reactant | NH4Cl | 46.3 mmol, 2.48 g | [NH4+].[Cl-]
reactant | 4-bromo-2-nitrotoluene | 46.3 mmol, 10 g | BrC1=CC(=C(C=C1)C)[N+](=O)[O-] | C7H6BrNO2
solvent | water | 50 mL | O | H2O
catalyst | Fe | 167 mmol, 9.31 g | [Fe] | Fe
product | 5-Bromo-2-methylaniline | 7.9 g, 92% | BrC=1C=CC(=C(N)C1)C | C7H8BrN
